US07670591B2
5-(6-Methoxy-1,3-benzoxazol-2-yl)-N-methylpyrimidin-2-amine
The title compound was synthesised according to the procedure described for 4-(6-methoxy-1,3-benzoxazol-2-yl)-N-methylaniline starting from 5-bromo-N-methylpyrimidin-2-amine. 1H NMR δ ppm 8.84-9.02 (m, 2H) 7.95 (d, 1H) 7.61 (d, 1H) 7.37 (d, 1H) 6.97 (dd, 1 H) 3.83 (s, 3H) 2.89 (d, 3H); ES-MS m/z 257 (M+H).

reactant | 4-(6-methoxy-1,3-benzoxazol-2-yl)-N-methylaniline | COC1=CC2=C(N=C(O2)C2=CC=C(NC)C=C2)C=C1 | C15H14N2O2
reactant | 5-bromo-N-methylpyrimidin-2-amine | BrC=1C=NC(=NC1)NC | C5H6BrN3
product | 5-(6-Methoxy-1,3-benzoxazol-2-yl)-N-methylpyrimidin-2-amine | COC1=CC2=C(N=C(O2)C=2C=NC(=NC2)NC)C=C1 | C13H12N4O2
